US05587392
Synthesis of 4-bromo-2-hydroxymethylphenol
Under ice cooling, the solution of 5-bromosalicylic acid (21.7 g) in ether (200 ml) was slowly added dropwise to the suspension of LiAlH4 (5.7 g) in ether (200 ml). After stirring at room temperature for 30 minutes, the reaction solution was slowly poured into 3N HCl with floating ice for extraction with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The oily residue generated after the evaporation of the solvent under reduced pressure was crystallized from ether-hexane, and the crystal was filtered, to give the title compound (15.5 g; 76.5%).

reactant | 5-bromosalicylic acid | 21.7 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | LiAlH4 | 5.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | 3N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-bromo-2-hydroxymethylphenol | 15.5 g, 76.5% | BrC1=CC(=C(C=C1)O)CO | C7H7BrO2
